US04317922
Step A. 2,3-Dichloro-4-methoxybenzaldehyde
A mixture of 2,3-dichloro-4-hydroxybenzaldehyde (19.1 gm., ;b 0.1 mole) and potassium carbonate (34.4 gm., 0.25 mole) in dimethylformamide (50 ml.) is stirred and treated dropwise over 15 minutes with dimethyl sulfate (14.1 gm., 0.11 mole). The reaction is exothermic; after 45 minutes the mixture is poured with stirring into water (300 ml.). The solid product that separates is removed by filtration, washed with water and then washed with a little methanol. After drying the yield of 2,3-dichloro-4-methoxybenzaldehyde is 16 gm., m.p., 117°-118° C.

reactant | 2,3-dichloro-4-hydroxybenzaldehyde | 0.1 mole, 19.1 gm | ClC1=C(C=O)C=CC(=C1Cl)O | C7H4Cl2O2
reactant | potassium carbonate | 0.25 mole, 34.4 gm | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.11 mole, 14.1 gm | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2,3-Dichloro-4-methoxybenzaldehyde | ClC1=C(C=O)C=CC(=C1Cl)OC | C8H6Cl2O2
